US06107345
Step A: 1-Cyano-1-(1-hydroxycyclohex-1-yl)benzocyclobutane
Whilst maintaining the temperature at -78° C., 69 ml of 1.6M butyllithium in n-hexane are added to a solution of 12.9 g of 1-cyanobenzocyclobutane in 200 ml of tetrahydrofuran. After stirring for half an hour at that temperature, 15.5 ml of cyclohexanone are added and the reaction mixture is brought back to room temperature. After stirring for 3 hours at room temperature, the reaction mixture is hydrolysed at -10° C. with water. After extraction with diethyl ether, the organic phase is washed with brine, dried over MgSO4 and concentrated in vacuo. The crystalline residue is recrystallised from isopropyl ether to yield 12.32 g of the desired product.

reactant | butyllithium | 1.6M, 69 ml | C(CCC)[Li]
reactant | 1-cyanobenzocyclobutane | 12.9 g | C(#N)C1CC2=C1C=CC=C2 | C9H7N
reactant | cyclohexanone | 15.5 ml | C1(CCCCC1)=O | C6H10O
reactant | water | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-Cyano-1-(1-hydroxycyclohex-1-yl)benzocyclobutane | 12.32 g | C(#N)C1(CC2=C1C=CC=C2)C2(CCCCC2)O | C15H17NO
